US04080323
7-Chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one
Sodium nitrite, 21.26 g (0.308 m) was added over a period of 20 min to a stirred solution of 71 g (0.237 m) of 7-chloro-3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one in 500 ml of acetic acid. Following the addition, the mixture was stirred for 1 hr at room temperature and was then diluted with 1.5 l. of water. The precipitated product was collected, washed with water and dissolved in methylene chloride. The solution was washed with saturated sodium bicarbonate solution, dried over sodium sulfate and evaporated. The residue was crystallized from ether to yield yellow crystals with mp 121°-124°. A second crop was obtained from the mother liquor.

reactant | Sodium nitrite | N(=O)[O-].[Na+]
reactant | 7-chloro-3,5-dihydro-2-methylamino-5-phenyl-4H-1,5-benzodiazepin-4-one | 71 g | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NC)C=C1 | C16H14ClN3O
reactant | water | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 7-Chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NCN=O)C=C1 | C16H13ClN4O2
